US05356926
Sodium hydride (326 mg, 8.15 mmol) is washed free of oil and added to a room temperature solution of 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid-1-oxide (2.30 g, 8.1 mmol) in a solvent system consisting of 25 mL of DMF and 75 mL of THF. After stirring at room temperature for 1.5 hours, the thick precipitate is cooled to -10° C. and thionyl chloride (713 μL, 9.78 mmol) is added. After 2 hours the solution is cooled to -78° C. resulting in the formation of a suspension. Ammonia gas is introduced under the surface for about 1 minute. After 10 minutes the reaction mixture is poured into a mixture of 6N HCl and brine. The organic phase is washed with additional acidic brine followed by saturated NaHCO3, then brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The resulting solid is recrystallized from EtOAc:hexane to provide 1.44 g (63%) of 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide-1-oxide; mp 168.5°-169.5° C.

reactant | Sodium hydride | 8.15 mmol, 326 mg | [H-].[Na+]
reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid-1-oxide | 8.1 mmol, 2.30 g | COC1=CC2=C(S(C(=C2OC(C)C)C(=O)O)=O)C=C1 | C13H14O5S
reactant | thionyl chloride | 9.78 mmol, 713 μL | S(=O)(Cl)Cl | Cl2OS
reactant | Ammonia | N | H3N
reactant | HCl | 6N | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide-1-oxide | 1.44 g, 63% | COC1=CC2=C(S(C(=C2OC(C)C)C(=O)N)=O)C=C1 | C13H15NO4S
